US06251057B1
In the same apparatus and procedure as Example 1 above, 0.15 g (0.75 mmol) of tri-n-butylphosphine, 1.33 g (10.0 mmol) of 1-chloro-3,3,3-trifluoropropane, and 6.77 g (50.0 mmol) of trichlorosilane were reacted at 150° C. for 15 hrs. The resulting mixture was distilled to give 2.1 g of (3,3,3-trifluoropropyl)trichlorosilane (bp; 114° C., yield; 90%).

reactant | 1-chloro-3,3,3-trifluoropropane | 10.0 mmol, 1.33 g | ClCCC(F)(F)F | C3H4ClF3
reactant | trichlorosilane | 50.0 mmol, 6.77 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tri-n-butylphosphine | 0.75 mmol, 0.15 g | C(CCC)P(CCCC)CCCC | C12H27P
product | (3,3,3-trifluoropropyl)trichlorosilane | 2.1 g, yield; 90% | FC(CC[Si](Cl)(Cl)Cl)(F)F | C3H4Cl3F3Si
